US08003785B2
To a mixture of 0.9503 g (3.0 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20), 0.6252 g (3.611 mmole) of 4-amino-2,5-difluorobenzoic acid, and 48 mL of dioxane, was added 1.96 g (6.01 mmole) of cesium carbonate and 0.0682 g (0.304 mmole) of palladium acetate. The mixture was deoxygenated with argon, 0.386 g (0.621 mmole) of 1,1′-[1,1′-binaphthalene]-2,2′-diylbis[1,1-diphenyl phosphine was added and the reaction mixture was heated at 100 degrees for 3 hrs. The cooled mixture was concentrated under reduced pressure, dissolved in ethyl acetate, made slightly acidic by the addition of 1M hydrochloric acid, washed with water, brine, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.5533 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid (I-232) as off-white solid.

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 3.0 mmole, 0.9503 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-2,5-difluorobenzoic acid | 3.611 mmole, 0.6252 g | NC1=CC(=C(C(=O)O)C=C1F)F | C7H5F2NO2
reactant | cesium carbonate | 6.01 mmole, 1.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.304 mmole, 0.0682 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 48 mL | O1CCOCC1 | C4H8O2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid | 0.5533 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2F)F | C20H19F4N5O3
